US09284298B2
Preparation of 5-acetyl-1H-pyrazole-3-carboxylic acid
Ethyl 5-acetyl-1H-pyrazole-3-carboxylate (0.050 g, 0.274 mmol) was dissolved in EtOH (5 mL) and treated with a 2 M solution of NaOH (0.5 mL, 1 eq.) at reflux temperature for 3 h. Solvent was evaporated to dryness and the residue dissolved in H2O. After treatment with 2M HCl the resulting precipitate was extracted with DCM. The organic phase was dried on Na2SO4 and concentrated to dryness to give the title compound (37 mg, 87% yield) as a white solid.

reactant | Ethyl 5-acetyl-1H-pyrazole-3-carboxylate | 0.274 mmol, 0.050 g | C(C)(=O)C1=CC(=NN1)C(=O)OCC | C8H10N2O3
reactant | NaOH | 0.5 mL, 1 eq. | [OH-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | 5-acetyl-1H-pyrazole-3-carboxylic acid | 37 mg, 87% yield | C(C)(=O)C1=CC(=NN1)C(=O)O | C6H6N2O3
